data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2794,"C1C[CH:1]([H:2])[C:3](=[N+:4]2CCOCC2)C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9251,"C1=CC2=C(C=C1)SC([S-:1])=N2.CC(C1=CC=CC=C1)[O+:2](P(SC1=NC2=C(C=CC=C2)S1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9489,"CC(=O)[O:1][H:2].CC1=CCC(C)([O-:3])[NH+]1C1=NC(Br)=CC=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3264,"CC(=O)C1=CC=CC2=C1C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1908,"CCC[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8708,"CC[Si:1](CC)(CC)[O+]=C1CCCC2CC(OC)C3C4CCCC4CC123.C[O:2][Sn-]([Cl])([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,3229,"CC(C)[O-].CCCC[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,1045,"O[O:1][H:2].[K][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4434,"CC[Si](C=CC[Si](C)(C)C)(CC)OC(CC=[O+][Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,7577,"C1CCC2(CC1)OCC[O+:1]2[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9529,"CC(=O)CC[CH:1]=[CH:2][N-:3]C.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7331,"CC(C)C.CC1=CC=C(S(=O)(=O)[N:1]2C3C4OC(C)(C)OC4C(O[Si](C)(C)C(C)(C)C)C([O-:2])[CH:3]32)C=C1.[Li+]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,9236,"CC1=CCCC1[OH:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7592,"CCCC[N+](CCCC)(CCCC)CCCC.CCO.CCO[Si:1](C)(C)C.C[Si](C)(C)[O-:2].O|(2, 1)"
train,pmechdb_split_0,0,6780,"CC[O-:1].C[C:2]1([H:3])CCCC[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6243,"CC(C(=O)NC(CCO)C(=O)[O-])[NH+:1](C([O-])(OCC1C2=CC=CC=C2C2=C1C=CC=C2)ON1C(=O)CCC1=O)[H:2].O=C([O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9647,"CC1=CC=C(C(=O)[O-:1])C=C1.C[Si](C)(C)C([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,7611,"CCC(CC)(C(C)C)[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8325,"C[P:1](C)C.[OH:2][Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2493,"CC(C)C(N)C(=O)[O-:1].CCC(O)(CCC1(C)C(=O)CCC1=O)[NH+:2](C(C(=O)O)C(C)C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9023,"CS(=O)(=O)O[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,7358,"C[C:1](C)(C)[O:2][C:3](C1(C(=O)CC2=CC=CC=C2)NCCC2=C1NC1=C2C=CC=C1)=[OH+:4].O=C([O-])C(F)(F)F|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3769,"C1CC[NH:1]CC1.COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1711,"CC[C:1](Cl)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2139,"C[CH:1]=[O+:2]CC[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1529,"CC1=C[C:1](C(C)C)([H:2])[C+:3](C)O1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7302,"CC(=O)[O:1][C:2](=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4993,"NC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6474,"C1CC[NH:1]C1.CC1(CCC(C)([O-])[N+:2]2([H:3])CCCC2)C(=O)CCCC1=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8618,"CCCC(=C(C1=C(O)C=CC(Br)=C1)N1CCCC1C1=NN=NN1)C(O)C1=CC=C([N+](=O)[O-])C=C1.CCCC(C(C1=C(O)C=CC(Br)=C1)=[N+]1CCCC1C1=NN=NN1)C([O-])C1=CC=C([N+](=O)[O-])C=C1.CCCC=C(C1=C(O)C=CC(Br)=C1)N1CCCC1C1=NN=NN1.O=C(C(F)(F)F)[O:1][H:2].O=CC1=CC=C([N+](=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3644,"CC(C)CC1=CC=C[N+:1]([CH:2]2CC(O)C(COC3CCCCC3)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4601,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C1(C(=O)OCC)C(C)CCC2(C#N)C(=O)[CH:1]([H:2])[C:3](=[O+:4]C)CC21.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5739,"CC[C:1](C(C)C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3333,"CO[C:1](C)([O-:2])[O:3]C1=CC=CC=C1.O=C(O)[O][K]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3985,"O=S(=O)(O)C1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,8468,"CC[OH:1].C[CH:2]=[NH+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8240,"O=S(=O)(O)C1=CC2=C(C=C1)[C:1](S(=O)(=O)O)([H:2])[CH+:3]C=C2.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9178,"CC(=O)[O-:1].CC(=O)[O:2][N:3]=[C:4](C(O)CO)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,3099,"CC(=O)CCC(C)(O)[NH+:1](CCO)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7705,"OC1C[CH:1]([N+:2]2=CC(C3CCCCC3)=CC=C2)[O:3]C1COC1CCCCC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8592,"C[S:1]C.C[S:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7904,"CCC1CCC(C)([O+:1](CC)[H:2])C1.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4841,"CS[C:1](C)=[S+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9071,"C1=CC=C(C[N+:1](=C2CCCCCCC2)[H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8132,"C[Si:1](C)(C)[O+]1CCOC12CCC1=C(C=CC=C1)O2.C[Si](C)(C)O[Si](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
